US08748012B2
A mixture solution of dibenzo[b,d]thiophen-4-ylboronic acid (2.5 g, 10.96 mmol), bis(4-bromophenyl)diphenylsilane (11.92 g, 24.11 mmol), Pd(PPh3)4 (0.253 g, 0.219 mmol), and K2CO3 (9.09 g, 65.8 mmol) in toluene (90 mL) and water (30 mL) was stirred at 90° C. under nitrogen overnight. After cooling to room temperature, the organic phase was isolated, and the aqueous phase was extracted with toluene. The combined organic solution was dried over Na2SO4. Upon evaporation of the solvent, the residue was purified by column chromatography on silica gel with hexane:DCM(9/1, v/v) as eluent to yield (4-bromophenyl)(4-(dibenzo[b,d]thiophen-4-yl)phenyl)diphenylsilane (5.2 g, 79%) as a white powder.

reactant | dibenzo[b,d]thiophen-4-ylboronic acid | 10.96 mmol, 2.5 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)B(O)O | C12H9BO2S
reactant | bis(4-bromophenyl)diphenylsilane | 24.11 mmol, 11.92 g | BrC1=CC=C(C=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)Br | C24H18Br2Si
reactant | K2CO3 | 65.8 mmol, 9.09 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.219 mmol, 0.253 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-bromophenyl)(4-(dibenzo[b,d]thiophen-4-yl)phenyl)diphenylsilane | 5.2 g, 79% | BrC1=CC=C(C=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C36H25BrSSi
